US04914093
6-[3-Chloro-4-(carboxymethoxy)phenyl]-3(2H)-pyridazinone (Compound No. 1b)
1.91 g of 6-[3-chloro-4-(carboxymethoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone (Compound No. 1a, prepared as described in Example 2) was dissolved in 55 ml of a 2% w/v aqueous sodium hydroxide solution, and 1.6 g of sodium m-nitrobenzenesulfonate was added thereto. The mixture was heated, with stirring, over an oil bath at 120° C. for 2 hours. The mixture was then cooled to room temperature and then acidified with 6N hydrochloric acid to a pH value of 2-3. The resulting precipitate was collected by filtration, to give 1.2 g of the title compound, melting at 227°=232° C.

reactant | 6-[3-chloro-4-(carboxymethoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | 1.91 g | ClC=1C=C(C=CC1OCC(=O)O)C=1CCC(NN1)=O | C12H11ClN2O4
reactant | sodium m-nitrobenzenesulfonate | 1.6 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | sodium hydroxide | [OH-].[Na+]
product | 6-[3-Chloro-4-(carboxymethoxy)phenyl]-3(2H)-pyridazinone | 1.2 g | ClC=1C=C(C=CC1OCC(=O)O)C=1C=CC(NN1)=O | C12H9ClN2O4
